C1 (0 net77) C=8.6E-13
C2 (vdd! net259) C=6.3E-8
R3 ( net154 net304)  R=5.8E2
T4 ( net304 net304 vdd! vdd!)  pfet  L=6.41E-6 W=9.33E-6
T5 ( net79 net304 vdd! vdd!)  pfet  L=6.41E-6 W=9.33E-6
R6 (net332 net326) R=2.1E1
T7 (net127 net209 net209 0) pfet L=2.87E-6 W=6.48E-6
R8 ( net339 net79)  R=5.5E4
T9 ( net79 net148 0 0)  nfet  L=4.29E-6 W=4.10E-6
T10 ( net151 net148 0 0)  nfet  L=4.29E-6 W=4.10E-6
T11 ( vdd! net79 net148 0)  nfet  L=4.29E-6 W=4.10E-6
T12 (vdd! vdd! vdd! 0) pfet L=6.57E-6 W=1.02E-6
T13 ( net301 net301 0 0)  nfet  L=1.70E-6 W=8.69E-6
T14 ( net168 net301 0 0)  nfet  L=1.70E-6 W=8.69E-6
R15 ( net168 net224)  R=10.0E1
C16 (net250 net33) C=3.0E-9
C17 (net271 net254) C=1.1E-6
T18 ( vdd! vdd! 0 0)  nfet  L=8.58E-6 W=2.82E-6
T19 ( net287 vdd! 0 0)  nfet  L=8.58E-6 W=2.82E-6
R20 ( net287 net193)  R=8.7E0
C21 (net273 net311) C=5.9E-7
T22 (net284 0 0 0) nfet L=3.03E-6 W=2.34E-6
T23 ( net275 net275 0 0)  nfet  L=3.79E-6 W=8.35E-6
T24 ( net151 net275 0 0)  nfet  L=3.79E-6 W=8.35E-6
R25 ( net151 net20)  R=6.3E4
T26 (net286 net294 net294 0) pfet L=4.62E-6 W=9.16E-6
C27 (net132 net68) C=8.5E-12
R28 ( net205 net108)  R=3.0E0
T29 ( net108 net108 net308 0)  nfet  L=2.92E-6 W=7.72E-6
T30 ( net308 net349 0 0)  nfet  L=2.92E-6 W=7.72E-6
T31 ( net349 net349 0 0)  nfet  L=2.92E-6 W=7.72E-6
T32 ( net348 net108 net349 0)  nfet  L=2.92E-6 W=7.72E-6
C33 (net240 0) C=5.4E-7
C34 (net210 net299) C=1.2E-9
R35 ( net159 net313)  R=9.0E6
T36 ( net313 net313 net147 vdd!)  pfet  L=2.78E-6 W=1.92E-6
T37 ( net147 net199 vdd! vdd!)  pfet  L=2.78E-6 W=1.92E-6
T38 ( net199 net199 vdd! vdd!)  pfet  L=2.78E-6 W=1.92E-6
T39 ( net223 net313 net199 vdd!)  pfet  L=2.78E-6 W=1.92E-6
T40 (net326 net134 net134 0) nfet L=7.29E-6 W=5.70E-6
T41 ( net109 net109 vdd! vdd!)  pfet  L=8.07E-6 W=1.71E-6
T42 ( net125 net109 vdd! vdd!)  pfet  L=8.07E-6 W=1.71E-6
R43 ( net125 net193)  R=8.2E4
T44 (net16 net217 net217 0) pfet L=8.15E-6 W=9.75E-6
R45 ( net192 net53)  R=2.6E5
T46 ( net53 net273 vdd! vdd!)  pfet  L=3.96E-6 W=1.66E-6
T47 ( net340 net273 vdd! vdd!)  pfet  L=3.96E-6 W=1.66E-6
T48 ( net295 net53 net340 vdd!)  pfet  L=3.96E-6 W=1.66E-6
T49 (net346 net87 net87 0) nfet L=8.16E-6 W=2.68E-6
R50 ( net232 net315)  R=5.3E6
T51 ( net315 net315 net31 0)  nfet  L=1.45E-6 W=6.39E-6
T52 ( net31 net110 0 0)  nfet  L=1.45E-6 W=6.39E-6
T53 ( net110 net110 0 0)  nfet  L=1.45E-6 W=6.39E-6
T54 ( net327 net315 net110 0)  nfet  L=1.45E-6 W=6.39E-6
R55 (net111 net298) R=4.4E1
T56 (net81 net91 net91 0) nfet L=1.64E-6 W=4.46E-6
R57 ( net117 net317)  R=4.4E1
T58 ( net317 net30 vdd! vdd!)  pfet  L=0.19E-6 W=2.71E-6
T59 ( net77 net30 vdd! vdd!)  pfet  L=0.19E-6 W=2.71E-6
T60 ( net224 net317 net77 vdd!)  pfet  L=0.19E-6 W=2.71E-6
R61 (net232 net100) R=4.4E4
R62 ( net265 net64)  R=6.5E2
T63 ( net64 net69 vdd! vdd!)  pfet  L=3.55E-6 W=3.52E-6
T64 ( net169 net69 vdd! vdd!)  pfet  L=3.55E-6 W=3.52E-6
T65 ( 0 net64 net69 vdd!)  pfet  L=3.55E-6 W=3.52E-6
T66 (vdd! net54 net54 0) nfet L=1.05E-6 W=4.63E-6
R67 (net260 net311) R=3.0E2
T68 (net345 net157 net157 0) nfet L=8.58E-6 W=9.61E-6
C69 (net136 net46) C=9.2E-11
T70 (net225 0 0 0) pfet L=6.57E-6 W=7.76E-6
R71 (0 net240) R=1.9E5
R72 ( net174 net314)  R=0.5E4
T73 ( net314 net314 net229 0)  nfet  L=5.36E-6 W=5.50E-6
T74 ( net229 net11 0 0)  nfet  L=5.36E-6 W=5.50E-6
T75 ( net11 net11 0 0)  nfet  L=5.36E-6 W=5.50E-6
T76 ( net265 net314 net11 0)  nfet  L=5.36E-6 W=5.50E-6
C77 (net301 net320) C=1.1E-9
T78 (net42 net171 net171 0) pfet L=6.68E-6 W=6.48E-6
C79 (0 net67) C=4.3E-14
C80 (net291 net354) C=5.6E-8
R81 (net237 net197) R=1.1E2
T82 ( net294 net294 vdd! vdd!)  pfet  L=6.66E-6 W=8.92E-6
T83 ( net212 net294 vdd! vdd!)  pfet  L=6.66E-6 W=8.92E-6
R84 ( net212 net214)  R=2.6E2
R85 (net158 net166) R=5.4E2
T86 (net76 net106 net106 0) pfet L=9.72E-6 W=5.83E-6
R87 ( net300 net93)  R=4.2E2
T88 ( net93 net93 vdd! vdd!)  pfet  L=8.29E-6 W=8.14E-6
T89 ( net358 net93 vdd! vdd!)  pfet  L=8.29E-6 W=8.14E-6
R90 (net40 net242) R=3.6E0
R91 ( net339 net294)  R=7.0E5
T92 ( net294 net177 vdd! vdd!)  pfet  L=8.78E-6 W=8.13E-6
T93 ( net225 net177 vdd! vdd!)  pfet  L=8.78E-6 W=8.13E-6
T94 ( net13 net294 net225 vdd!)  pfet  L=8.78E-6 W=8.13E-6
R95 (net358 net336) R=4.8E3
T96 (net261 net121 net121 0) nfet L=7.12E-6 W=6.92E-6
R97 ( net295 net179)  R=4.3E5
T98 ( net179 net52 0 0)  nfet  L=9.59E-6 W=3.17E-6
T99 ( net325 net52 0 0)  nfet  L=9.59E-6 W=3.17E-6
T100 ( net97 net179 net325 0)  nfet  L=9.59E-6 W=3.17E-6
C101 (vdd! net70) C=0.6E-8
R102 ( net316 net334)  R=3.7E1
T103 ( net334 net334 net329 vdd!)  pfet  L=3.59E-6 W=6.84E-6
T104 ( net329 net216 vdd! vdd!)  pfet  L=3.59E-6 W=6.84E-6
T105 ( net216 net216 vdd! vdd!)  pfet  L=3.59E-6 W=6.84E-6
T106 ( net318 net334 net216 vdd!)  pfet  L=3.59E-6 W=6.84E-6
T107 (net354 net123 net123 0) nfet L=6.98E-6 W=7.76E-6
R108 ( net351 net100)  R=8.4E4
T109 ( net100 net85 vdd! vdd!)  pfet  L=5.74E-6 W=3.29E-6
T110 ( net344 net85 vdd! vdd!)  pfet  L=5.74E-6 W=3.29E-6
T111 ( net310 net100 net344 vdd!)  pfet  L=5.74E-6 W=3.29E-6
T112 (net135 0 0 0) nfet L=2.31E-6 W=6.46E-6
T113 (net75 net271 net271 0) nfet L=0.57E-6 W=8.33E-6
R114 ( net312 net263)  R=0.7E6
T115 ( net263 net227 vdd! vdd!)  pfet  L=8.83E-6 W=7.27E-6
T116 ( net102 net227 vdd! vdd!)  pfet  L=8.83E-6 W=7.27E-6
T117 ( 0 net263 net227 vdd!)  pfet  L=8.83E-6 W=7.27E-6
R118 (net112 vdd!) R=4.9E5
T119 (net196 vdd! vdd! 0) nfet L=8.19E-6 W=3.18E-6
R120 ( net280 net284)  R=3.4E0
T121 ( net284 net284 net249 0)  nfet  L=1.03E-6 W=6.02E-6
T122 ( net249 net244 0 0)  nfet  L=1.03E-6 W=6.02E-6
T123 ( net244 net244 0 0)  nfet  L=1.03E-6 W=6.02E-6
T124 ( net66 net284 net244 0)  nfet  L=1.03E-6 W=6.02E-6
C125 (net260 net248) C=7.5E-7
C126 (net320 net56) C=5.6E-7
R127 ( net186 net83)  R=5.6E4
T128 ( net83 net121 0 0)  nfet  L=8.21E-6 W=5.80E-6
T129 ( net281 net121 0 0)  nfet  L=8.21E-6 W=5.80E-6
T130 ( vdd! net83 net121 0)  nfet  L=8.21E-6 W=5.80E-6
T131 (net269 net135 net135 0) nfet L=7.88E-6 W=0.37E-6
T132 (net158 net66 net66 0) pfet L=5.60E-6 W=8.10E-6
R133 (vdd! net220) R=7.8E3
T134 (net347 net68 net68 0) nfet L=8.91E-6 W=5.08E-6
T135 ( 0 0 0 0)  nfet  L=3.03E-6 W=7.35E-6
T136 ( net21 0 0 0)  nfet  L=3.03E-6 W=7.35E-6
R137 ( net21 0)  R=5.1E3
T138 (vdd! net213 net213 0) pfet L=5.20E-6 W=3.95E-6
R139 ( net356 net247)  R=2.6E3
T140 ( net247 net247 net246 0)  nfet  L=2.58E-6 W=9.86E-6
T141 ( net246 net281 0 0)  nfet  L=2.58E-6 W=9.86E-6
T142 ( net281 net281 0 0)  nfet  L=2.58E-6 W=9.86E-6
T143 ( net155 net247 net281 0)  nfet  L=2.58E-6 W=9.86E-6
R144 (net339 net186) R=8.2E6
R145 ( net16 net245)  R=8.2E1
T146 ( net245 net245 0 0)  nfet  L=5.80E-6 W=5.77E-6
T147 ( 0 net245 0 0)  nfet  L=5.80E-6 W=5.77E-6
C148 (net34 net19) C=3.5E-14
T149 ( net341 net341 0 0)  nfet  L=2.68E-6 W=6.38E-6
T150 ( net2 net341 0 0)  nfet  L=2.68E-6 W=6.38E-6
R151 ( net2 net66)  R=7.8E3
C152 (net183 net45) C=4.1E-5
R153 ( net286 net119)  R=2.1E3
T154 ( net119 net119 0 0)  nfet  L=1.70E-6 W=0.40E-6
T155 ( net142 net119 0 0)  nfet  L=1.70E-6 W=0.40E-6
T156 (net104 net115 net115 0) nfet L=1.30E-6 W=3.16E-6
R157 ( net65 net351)  R=3.4E6
T158 ( net351 net310 vdd! vdd!)  pfet  L=1.08E-6 W=4.24E-6
T159 ( net181 net310 vdd! vdd!)  pfet  L=1.08E-6 W=4.24E-6
T160 ( 0 net351 net310 vdd!)  pfet  L=1.08E-6 W=4.24E-6
C161 (net161 net214) C=4.5E-8
T162 (net330 net326 net326 0) nfet L=4.89E-6 W=6.04E-6
R163 ( net39 net270)  R=4.8E4
T164 ( net270 net270 net191 vdd!)  pfet  L=4.05E-6 W=7.47E-6
T165 ( net191 net96 vdd! vdd!)  pfet  L=4.05E-6 W=7.47E-6
T166 ( net96 net96 vdd! vdd!)  pfet  L=4.05E-6 W=7.47E-6
T167 ( net258 net270 net96 vdd!)  pfet  L=4.05E-6 W=7.47E-6
R168 (net305 net260) R=1.6E1
T169 ( net183 net183 0 0)  nfet  L=4.85E-6 W=3.23E-6
T170 ( net32 net183 0 0)  nfet  L=4.85E-6 W=3.23E-6
R171 ( net32 net197)  R=9.6E0
C172 (net219 net104) C=1.5E-14
C173 (net99 net204) C=1.5E-14
R174 (net43 net157) R=9.3E5
R175 (net188 net80) R=6.1E4
T176 (net330 net124 net124 0) nfet L=0.75E-6 W=3.07E-6
R177 ( net35 net92)  R=8.9E5
T178 ( net92 net293 vdd! vdd!)  pfet  L=3.54E-6 W=7.27E-6
T179 ( net33 net293 vdd! vdd!)  pfet  L=3.54E-6 W=7.27E-6
T180 ( 0 net92 net293 vdd!)  pfet  L=3.54E-6 W=7.27E-6
R181 (net272 net144) R=4.4E1
T182 (net355 net208 net208 0) pfet L=5.71E-6 W=4.14E-6
R183 ( net264 net116)  R=4.9E2
T184 ( net116 net116 net134 vdd!)  pfet  L=7.72E-6 W=7.10E-6
T185 ( net134 net146 vdd! vdd!)  pfet  L=7.72E-6 W=7.10E-6
T186 ( net146 net146 vdd! vdd!)  pfet  L=7.72E-6 W=7.10E-6
T187 ( net195 net116 net146 vdd!)  pfet  L=7.72E-6 W=7.10E-6
R188 (net330 net91) R=5.8E1
C189 (net78 net276) C=3.7E-10
R190 (net341 net266) R=9.1E6
R191 ( net4 net60)  R=2.1E5
T192 ( net60 net254 vdd! vdd!)  pfet  L=1.52E-6 W=4.73E-6
T193 ( net3 net254 vdd! vdd!)  pfet  L=1.52E-6 W=4.73E-6
T194 ( 0 net60 net254 vdd!)  pfet  L=1.52E-6 W=4.73E-6
R195 (net231 net303) R=2.6E3
T196 (net46 net289 net289 0) nfet L=0.33E-6 W=2.94E-6
T197 (net226 net76 net76 0) pfet L=9.23E-6 W=4.15E-6
T198 ( net346 net346 vdd! vdd!)  pfet  L=3.94E-6 W=2.16E-6
T199 ( net339 net346 vdd! vdd!)  pfet  L=3.94E-6 W=2.16E-6
R200 ( net339 net104)  R=2.6E6
C201 (net200 net182) C=2.9E-5
C202 (net17 net251) C=5.1E-7
R203 ( net126 net198)  R=4.5E0
T204 ( net198 net198 net43 vdd!)  pfet  L=0.79E-6 W=3.78E-6
T205 ( net43 net312 vdd! vdd!)  pfet  L=0.79E-6 W=3.78E-6
T206 ( net312 net312 vdd! vdd!)  pfet  L=0.79E-6 W=3.78E-6
T207 ( net240 net198 net312 vdd!)  pfet  L=0.79E-6 W=3.78E-6
C208 (net133 net311) C=0.3E-10
R209 ( net70 net298)  R=9.0E3
T210 ( net298 net298 vdd! vdd!)  pfet  L=8.46E-6 W=9.73E-6
T211 ( net163 net298 vdd! vdd!)  pfet  L=8.46E-6 W=9.73E-6
C212 (net81 vdd!) C=4.2E-14
C213 (net274 net149) C=0.5E-10
R214 (net63 net157) R=6.5E4
T215 (net141 net9 net9 0) nfet L=8.83E-6 W=7.95E-6
R216 (0 net327) R=0.7E4
R217 (net203 net126) R=6.7E1
R218 ( net149 net342)  R=0.4E5
T219 ( net342 net301 0 0)  nfet  L=7.73E-6 W=5.61E-6
T220 ( net224 net301 0 0)  nfet  L=7.73E-6 W=5.61E-6
T221 ( net33 net342 net224 0)  nfet  L=7.73E-6 W=5.61E-6
C222 (vdd! net277) C=0.2E-5
R223 ( net292 net139)  R=3.5E4
T224 ( net139 net139 net197 0)  nfet  L=5.61E-6 W=9.08E-6
T225 ( net197 net328 0 0)  nfet  L=5.61E-6 W=9.08E-6
T226 ( net328 net328 0 0)  nfet  L=5.61E-6 W=9.08E-6
T227 ( net109 net139 net328 0)  nfet  L=5.61E-6 W=9.08E-6
C228 (net68 net271) C=3.1E-11
R229 (net75 net50) R=4.2E4
T230 (net154 net185 net185 0) nfet L=7.46E-6 W=1.48E-6
R231 ( net33 net186)  R=9.1E6
T232 ( net186 net183 vdd! vdd!)  pfet  L=3.00E-6 W=3.69E-6
T233 ( net174 net183 vdd! vdd!)  pfet  L=3.00E-6 W=3.69E-6
T234 ( 0 net186 net183 vdd!)  pfet  L=3.00E-6 W=3.69E-6
R235 (net336 net201) R=6.6E3
T236 ( net141 net141 vdd! vdd!)  pfet  L=5.45E-6 W=8.53E-6
T237 ( net291 net141 vdd! vdd!)  pfet  L=5.45E-6 W=8.53E-6
R238 ( net291 net236)  R=5.7E1
C239 (net251 net338) C=0.7E-7
T240 ( net176 net176 0 0)  nfet  L=0.25E-6 W=2.98E-6
T241 ( net90 net176 0 0)  nfet  L=0.25E-6 W=2.98E-6
R242 ( net90 net12)  R=2.3E4
T243 (net299 net76 net76 0) nfet L=1.80E-6 W=6.15E-6
R244 (0 net278) R=5.3E1
T245 ( net37 net37 0 0)  nfet  L=1.63E-6 W=4.52E-6
T246 ( net319 net37 0 0)  nfet  L=1.63E-6 W=4.52E-6
R247 ( net319 net265)  R=9.4E1
C248 (vdd! net274) C=9.6E-10
R249 ( net343 net26)  R=0.8E2
T250 ( net26 net26 0 0)  nfet  L=6.89E-6 W=9.63E-6
T251 ( net135 net26 0 0)  nfet  L=6.89E-6 W=9.63E-6
R252 (net347 net51) R=3.2E5
R253 ( net34 net345)  R=4.6E5
T254 ( net345 net201 vdd! vdd!)  pfet  L=9.55E-6 W=9.02E-6
T255 ( net48 net201 vdd! vdd!)  pfet  L=9.55E-6 W=9.02E-6
T256 ( 0 net345 net201 vdd!)  pfet  L=9.55E-6 W=9.02E-6
T257 (net28 net333 net333 0) nfet L=7.43E-6 W=1.90E-6
R258 ( 0 net156)  R=4.1E0
T259 ( net156 net156 net222 0)  nfet  L=2.52E-6 W=8.89E-6
T260 ( net222 net169 0 0)  nfet  L=2.52E-6 W=8.89E-6
T261 ( net169 net169 0 0)  nfet  L=2.52E-6 W=8.89E-6
T262 ( net38 net156 net169 0)  nfet  L=2.52E-6 W=8.89E-6
C263 (vdd! net210) C=3.5E-10
R264 ( net306 net235)  R=7.3E6
T265 ( net235 net89 0 0)  nfet  L=5.72E-6 W=5.64E-6
T266 ( net142 net89 0 0)  nfet  L=5.72E-6 W=5.64E-6
T267 ( vdd! net235 net89 0)  nfet  L=5.72E-6 W=5.64E-6
R268 (net181 net25) R=5.2E6
T269 (net356 net51 net51 0) nfet L=9.26E-6 W=7.66E-6
T270 (net337 net348 net348 0) pfet L=5.81E-6 W=5.81E-6
T271 (net72 net91 net91 0) nfet L=3.66E-6 W=7.36E-6
C272 (net236 net25) C=1.1E-5
R273 ( net255 net302)  R=7.8E0
T274 ( net302 net302 net297 0)  nfet  L=5.41E-6 W=8.84E-6
T275 ( net297 net56 0 0)  nfet  L=5.41E-6 W=8.84E-6
T276 ( net56 net56 0 0)  nfet  L=5.41E-6 W=8.84E-6
T277 ( 0 net302 net56 0)  nfet  L=5.41E-6 W=8.84E-6
C278 (net5 net94) C=9.5E-10
R279 (0 net346) R=6.4E2
R280 ( net181 net271)  R=3.8E1
T281 ( net271 net337 vdd! vdd!)  pfet  L=2.65E-6 W=3.84E-6
T282 ( net250 net337 vdd! vdd!)  pfet  L=2.65E-6 W=3.84E-6
T283 ( net120 net271 net250 vdd!)  pfet  L=2.65E-6 W=3.84E-6
R284 (net296 net289) R=4.3E6
T285 (net38 net58 net58 0) nfet L=3.23E-6 W=5.12E-6
R286 (net204 net105) R=10.0E4
R287 (vdd! net163) R=8.5E3
T288 (0 net23 net23 0) nfet L=1.26E-6 W=3.03E-6
T289 (net348 net306 net306 0) nfet L=3.41E-6 W=6.51E-6
T290 (0 vdd! vdd! 0) pfet L=2.72E-6 W=5.54E-6
R291 ( net94 net260)  R=1.5E4
T292 ( net260 net132 0 0)  nfet  L=8.02E-6 W=0.38E-6
T293 ( net324 net132 0 0)  nfet  L=8.02E-6 W=0.38E-6
T294 ( vdd! net260 net132 0)  nfet  L=8.02E-6 W=0.38E-6
T295 (net81 net18 net18 0) pfet L=2.23E-6 W=3.74E-6
R296 ( net57 net115)  R=6.5E2
T297 ( net115 net111 vdd! vdd!)  pfet  L=8.18E-6 W=7.36E-6
T298 ( net189 net111 vdd! vdd!)  pfet  L=8.18E-6 W=7.36E-6
T299 ( 0 net115 net111 vdd!)  pfet  L=8.18E-6 W=7.36E-6
R300 (vdd! net331) R=4.7E2
T301 (net194 net268 net268 0) pfet L=4.70E-6 W=7.07E-6
T302 (net39 net326 net326 0) nfet L=4.67E-6 W=0.84E-6
T303 (net331 net48 net48 0) pfet L=1.23E-6 W=9.30E-6
T304 (0 net326 net326 0) pfet L=9.23E-6 W=0.88E-6
C305 (vdd! net81) C=3.3E-14
T306 (net105 net106 net106 0) pfet L=7.26E-6 W=3.84E-6
C307 (net27 net341) C=7.6E-7
T308 (net152 net257 net257 0) nfet L=4.14E-6 W=0.12E-6
T309 (vdd! net268 net268 0) pfet L=4.14E-6 W=9.17E-6
T310 (net103 net193 net193 0) nfet L=6.07E-6 W=7.05E-6
C311 (vdd! net65) C=4.3E-14
T312 (net190 net350 net350 0) nfet L=7.25E-6 W=8.81E-6
C313 (net88 net258) C=8.8E-7
T314 (net210 net82 net82 0) nfet L=1.78E-6 W=2.79E-6
R315 (0 net103) R=0.7E4
T316 (net258 net174 net174 0) nfet L=7.36E-6 W=2.66E-6
T317 (net175 net103 net103 0) pfet L=9.48E-6 W=3.91E-6
T318 (net173 net309 net309 0) nfet L=9.03E-6 W=4.15E-6
R319 (net228 net276) R=2.3E1
T320 (net19 net326 net326 0) pfet L=7.35E-6 W=0.10E-6
T321 (net23 vdd! vdd! 0) nfet L=7.93E-6 W=8.13E-6
T322 (net41 net144 net144 0) pfet L=6.81E-6 W=3.91E-6
R323 (net230 net326) R=4.5E3
T324 (net16 net187 net187 0) pfet L=2.83E-6 W=2.14E-6
T325 (net36 net232 net232 0) pfet L=8.43E-6 W=7.79E-6
C326 (net152 net238) C=5.4E-14
T327 (net20 vdd! vdd! 0) pfet L=9.99E-6 W=5.94E-6
T328 (0 net7 net7 0) nfet L=9.86E-6 W=4.08E-6
R329 (net130 net57) R=2.5E2
T330 (net318 net37 net37 0) pfet L=6.19E-6 W=7.69E-6
T331 (net63 net72 net72 0) pfet L=3.12E-6 W=3.37E-6
C332 (net27 net103) C=9.3E-14
T333 (net343 net13 net13 0) nfet L=7.36E-6 W=6.09E-6
R334 (net171 net346) R=8.8E4
T335 (net123 net136 net136 0) pfet L=4.86E-6 W=4.15E-6
C336 (net234 net311) C=1.2E-14
C337 (vdd! net189) C=2.9E-13
R338 (net307 net87) R=8.0E5
T339 (net257 net75 net75 0) pfet L=0.25E-6 W=3.03E-6
C340 (net292 net277) C=4.8E-8
T341 (vdd! net303 net303 0) pfet L=9.63E-6 W=2.03E-6
R342 (net58 net338) R=6.6E0
T343 (net276 net218 net218 0) nfet L=7.62E-6 W=7.57E-6
C344 (0 net17) C=1.2E-6
T345 (net255 0 0 0) pfet L=2.95E-6 W=6.93E-6
T346 (net240 net76 net76 0) nfet L=1.52E-6 W=4.72E-6
C347 (vdd! net143) C=3.0E-5
C348 (net261 net341) C=3.4E-13
T349 (0 net39 net39 0) nfet L=6.02E-6 W=4.21E-6
R350 (net279 net194) R=7.4E1
T351 (net98 net158 net158 0) nfet L=9.03E-6 W=7.43E-6
T352 (net286 net74 net74 0) nfet L=0.64E-6 W=6.12E-6
T353 (net188 net335 net335 0) nfet L=7.65E-6 W=6.28E-6
C354 (net94 net159) C=1.5E-6
C355 (net292 net70) C=3.0E-14
T356 (net193 net305 net305 0) nfet L=8.97E-6 W=5.78E-6
T357 (net58 net232 net232 0) pfet L=1.79E-6 W=4.48E-6
R358 (net164 net8) R=1.6E3
C359 (net357 net20) C=9.5E-13
C360 (net232 net210) C=3.8E-11
C361 (net161 net38) C=8.2E-6
T362 (net321 net213 net213 0) pfet L=9.75E-6 W=3.29E-6
T363 (net94 net94 net94 0) nfet L=9.92E-6 W=2.18E-6

